Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2](=[O:3])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],2.01141908
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.6811162076
[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-0.826242836091
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],3.40449267926
[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1],4.27312413247
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[O:12][H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-1.99254156982
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:5]([H:6])[H:7].[H:1][C:2][O:3][C:4][C:8]([H:9])([H:10])[O:11][H:12],8.37684477232
[H:1][C:2]#[C:3][C:9]([O:8][C:4]=[C:5]([H:6])[H:7])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[C:4](=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.87936382427
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.24794732578
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[H:7].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:8][H:9],3.83880553698
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-5.03972766932
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][O:9][H:10].[H:8],2.6308623901
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.7763455895
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.0815651348
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.4267843224
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],3.73932104869
[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]1[O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],-1.89363964497
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]#[C:6][H:7]>>[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.95485159029
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])[H:11].[O:12][H:13],5.593523987239998
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10],-3.17709949066
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:5]([H:6])=[C:7]([O:8][H:9])[O:10][H:11].[H:4],1.72547092062
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.91044750233
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5]=[C:6]=[O:7],1.2854608024299998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.8821720683
[C:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.29968401343
[C:1][O:2][C:3]#[C:4].[O:5]=[C:6][H:7]>>[C:1][O:2][C:3]#[C:4][O:5][C:6][H:7],0.0541725109600999
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][O:7].[C:8]([H:9])([H:10])[H:11],3.14845087264
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],3.21957630177
[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.3751785088799997
